US04310714
Ruthenium has been found to be a stereoselective catalyst for the hydrogenation of α-pinene to obtain cis-pinane.

reactant | α-pinene | CC1=CCC2CC1C2(C)C | C10H16
catalyst | Ruthenium | [Ru] | Ru
product | cis-pinane | CC1CC[C@H]2C[C@@H]1C2(C)C | C10H18
